US04015005
To a stirred solution of 20.2 g. of bromoacetyl bromide in 150 ml. of benzene is added dropwise over 30 minutes, 26.6 g. of 1,2,3,4-tetrahydroquinoline dissolved in 35 ml. of benzene. The reaction mixture is then stirred at room temperature for 18 hours, after which time the precipitate is filtered off. The resultant filtrate is washed successively with 1N HCL solution and with a saturated sodium chloride solution, dried, and the solvent removed under reduced pressure to yield 1-(bromoacetyl)-1,2,3,4-tetrahydroquinoline, b.p. 70°-80° C. (at 0.1 mm. Hg).

reactant | bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
reactant | 1,2,3,4-tetrahydroquinoline | N1CCCC2=CC=CC=C12 | C9H11N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-(bromoacetyl)-1,2,3,4-tetrahydroquinoline | BrCC(=O)N1CCCC2=CC=CC=C12 | C11H12BrNO
